US07816405B2
Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-hydroxypropionate
Methyl (2S)-3-(3-hydroxyphenyl)-2-hydroxypropionate (8.93 kg, 45.1 mol) was dissolved in tert-butylmethyl ether (133 L), and triethylamine (12.7 L, 91 mol) was added to the reaction mixture at room temperature, followed by cooling. Pivaloyl chloride (5.89 L, 48 mol) was added dropwise to the reaction mixture at an internal temperature of 2° C. After the end of the dropwise addition, the reaction mixture was stirred at 10° C. for 17 hours. To the reaction mixture was added 43 L of a 1N hydrochloric acid aqueous solution before stirring, followed by allowing to stand and then separating the mixture. The organic layer was washed twice each with a 0.25N sodium hydroxide aqueous solution (45 L) and water (45 L), and further washed with 42 L of a 5% sodium chloride solution, and then the organic layer was subjected to vacuum concentration at 50° C. After that, 1,2-dimethoxyethane (45 L) was added to the residue and then again subjected to vacuum concentration to obtain 11.0 kg of the title compound (yield: 86%).

reactant | Methyl (2S)-3-(3-hydroxyphenyl)-2-hydroxypropionate | 45.1 mol, 8.93 kg | OC=1C=C(C=CC1)C[C@@H](C(=O)OC)O | C10H12O4
reactant | triethylamine | 91 mol, 12.7 L | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 48 mol, 5.89 L | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tert-butylmethyl ether | 133 L | C(C)(C)(C)OC | C5H12O
product | Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-hydroxypropionate | 11.0 kg, yield: 86% | C(C(C)(C)C)(=O)OC=1C=C(C=CC1)C[C@@H](C(=O)OC)O | C15H20O5
